US04605652
5-Aminosulfonyl-N-(1-azabicyclo[2.2.2]oct-3-yl)-2-methoxybenzamide Hydrochloride Hydrate [1:1:0.25]
A solution of 3-aminoquinuclidine dihydrochloride (2.5 g, 0.0126 mole) in 25 ml of water was treated with approximately 5 g of KOH and the resultant slurry/solution taken to complete dryness on the rotary evaporator at 50°/35 mm. The dry residue was carefully extracted by repeated triturations with warm tetrahydrofuran until a total volume of 130 ml had been collected and dried over magnesium sulfate. This solution of 3-aminoquinuclidine base was treated with a solution of 2-methoxy-5-sulfamylbenzoyl chloride (2.92 g, 0.0117 mole) in 50 ml of dry tetrahydrofuran by dropwise addition under nitrogen. The resultant very turbid solution was refluxed gently for about 30 min, then freed of tetrahydrofuran by allowing it to evaporate. The residue was taken up in 90% ethanol containing a few drops of ethereal hydrogen chloride, filtered and chilled. The solid produced was then recrystallized again to yield 4.3 g (97%), m.p. 233°-234° C. NMR, MS, and IR were in support of the structure proposed.

reactant | 3-aminoquinuclidine dihydrochloride | 0.0126 mole, 2.5 g | Cl.Cl.NC1CN2CCC1CC2
reactant | KOH | approximately 5 g | [OH-].[K+]
reactant | 3-aminoquinuclidine | NC1CN2CCC1CC2 | C7H14N2
reactant | 2-methoxy-5-sulfamylbenzoyl chloride | 0.0117 mole, 2.92 g | COC1=C(C(=O)Cl)C=C(C=C1)S(N)(=O)=O | C8H8ClNO4S
solvent | water | 25 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-Aminosulfonyl-N-(1-azabicyclo[2.2.2]oct-3-yl)-2-methoxybenzamide Hydrochloride Hydrate | O.Cl.NS(=O)(=O)C=1C=CC(=C(C(=O)NC2CN3CCC2CC3)C1)OC | InChI=1S/C15H21N3O4S.ClH.H2O/c1-22-14-3-2-11(23(16,20)21)8-12(14)15(19)17-13-9-18-6-4-10(13)5-7-18;;/h2-3,8,10,13H,4-7,9H2,1H3,(H,17,19)(H2,16,20,21);1H;1H2
